US07351733B2
6-Bromo-N-(5-propylpyrimidin-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine (75 mg, 0.28 mmol) and 5-propyl-2-chloropyrimidine (0.5 mL) in a similar manner as described above to give 5 mg (5%) of a yellow solid. 1H-NMR (DMSO-d6): δ 10.86 (s, 1H), 8.17 (s, 2H), 7.53 (s, 1H), 7.30 (d, 1H), 7.22 (d, 1H), 7.10 (d, 1H), 5.30-5.23 (m, 1H), 2.63-2.56 (m, 2H), 2.36 (t, 2H), 2.06-1.96 (m, 2H), 1.84-1.73 (m, 2H), 1.56-1.47 (m, 2H), 0.88 (t, 3H); MS m/z (M−1) 383, 385.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 0.28 mmol, 75 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 5-propyl-2-chloropyrimidine | 0.5 mL | C(CC)C=1C=NC(=NC1)Cl | C7H9ClN2
product | 6-Bromo-N-(5-propylpyrimidin-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC1=NC=C(C=N1)CCC | C19H21BrN4
